data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7913,"C=C=C(C1CCC2CCCCC2([OH+][Na:1])O1)[Si](C)(C)C.OB1C2CCCC1CCC2.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,9454,"O=[N+]([O-])C1=C[C:1](Br)([H:2])[CH+:3]O1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5345,"COC1=C2OC3C45CCN(C6CCCCC6)C(CC(=C24)C=C1)C5(O)CC[C:1]3=[O:2].N[NH2:3].O.OCCOCCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1530,"CCC1CC[CH:1]=[C:2](C(C)=O)C1=O.CC[S-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7979,"CCC1CC(=N[O+:1](S(C)(=O)=O)[H:2])C2=CC=CC=C21.CC[N:3](CC)CC.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8771,"CCO[C:1](CCC(=O)N(C)C)([C:2]#N)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8929,"CC[O-:1].O=[N+]([O-])[CH2:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6930,"CC(=O)[O-].CC[NH+](CC)CC.COC1=CC([C:1]([CH:2](C2=CC(O)=C(OC)C=C2)[O:3]C(C)=O)=[C:4](OC(C)=O)[O-:5])=CC(OC)=C1OC|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,7656,"C[C:1](=[CH:2]Br)[OH:3].[H:4][OH2+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,743,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=C[C+:4](Br)[CH:5]=[CH:6]1|(1, 3);((3, 2), 6);((6, 5), 4)"
train,pmechdb_split_0,0,1309,"C[O:1][CH:2]=[CH:3]CCC[CH:4]=[S+:5]C1=CC=CC=C1.O=C([O-])C(F)(F)F|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6416,"CC(C)[N:1]([Li-][O+](C1=[C:2]([H:3])C=CC=C1)S(=O)(=O)C(F)(F)F)C(C)C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5334,"CS(=O)(=O)[O:1][Si-:2](C)(C)(C)O|((2, 1), 1)"
train,pmechdb_split_0,0,5963,"C[S+:1](C)[CH2:2]C[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5314,"Br[C:1]#[N:2].CC(=O)OC1=C2OC3C(=O)C(C4=CC=CC=C4)CC4(OC(C)=O)C5CC(=C2C34CC[N:3]5C)C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3541,"CC=C[CH2+:1].[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,7653,"COC1=C(O)C=CC(CC(C(=O)[O][Na])C(C[O-:1])C(O)C2=CC(OC)=C(O)C=C2)=C1.[Na][OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1506,"C[C:1]([O:2][H:3])=[O:4].O.O=C(O)C[NH+]1C(C2=C3C=CC=CC3=CC=C2)=CC(C2=CC=CC=C2)C1(C1=CC=CO1)[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,7763,"CC(=O)[O-:1].COC1=CC=C(C2C(=CC3=CC=C(O)C=C3)C(=[N+:2](C3=C(O)C=CC=C3)[H:3])C(=O)N2C2=CC=CC=C2)C=C1.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3738,"CCC(C)C1=C2CN3C(=O)C4=C(C=C3C2=NC2=C1C=C(CCCC(C)C)C=C2)C(O)(CC)C(O)([OH+:1][H:2])OC4.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1939,"CC1(O)CCCCC[O:1]1.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10011,"C=C1[CH-]C(=[O+][B-](Cl)(Cl)Cl)CCC[C+:1]([C:2](C)(C)[CH3:3])C1|((2, 3), 1)"
train,pmechdb_split_0,0,5921,"CCOC(=O)C(C(C)=O)C(C(=O)OCC)C(C)([O-])[NH2+:1][H:2].CO.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2407,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])OC(C(F)(F)F)=C[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,2250,"C[C:1](O)([NH3+:2])[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5719,"CS(=O)[O:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1338,"CCCC.C[O-:1].[Li+:2].[Li][O]C1(C)CCC=C1CCCC|(1, 2)"
train,pmechdb_split_0,0,1824,"CC=CC(CC)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8330,"CCO[C:1](CC)=[O+:2]CC.CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4352,"CO[C:1]1=[CH:2][CH:3]=[CH:4]C([N+](=O)[O-])=C1.C[CH+:5]C|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,4020,"CO[C:1](Cl)=[O:2].C[N:3](C)C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5808,"C[S+](C)[CH2:1][H:2].[Li][N:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,277,"CC(=O)[O:1][H:2].CCOC(=O)C1=C(C)NC(C2=CC=CC=C2)([OH:3])C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9213,"C[C:1](C)=[OH+:2].OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5313,"CC[SH:1].C[C:2](=[OH+:3])[CH:4]=[CH2:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,4363,"CP(C)(=O)[CH2:1][H:2].[Li:3][CH3:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,125,"CC(=O)[O-].CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1CCC2C3C[CH+:1]C45CC4CCC5(C)C3CCC12C.C[OH:2].[K+]|(2, 1)"
train,pmechdb_split_0,0,7960,"CC1CC(O[C:1](C(F)(F)F)=[O:2])=[NH+]C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C.O=C(C(F)(F)F)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,368,"C1CCOC1.C1COCCO1.ClC1=C(C2OCC[O:1]2)SC=N1.O.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8055,"C1=CC=NC=C1.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC(=O)CCC(C(C)C=O)[C:1](C)=[O+:2]CCO.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3054,"CCC1=CC=C[N+:1]([CH:2]2CC(O)C(COC)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5562,"C[S:1][I:2].O=C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9479,"C[C:1]1([OH2+:2])CCCC(=O)C1|((1, 2), 2)"
train,pmechdb_split_0,0,9465,"CC(C)(C)C1=CC=C(C(CC[C:1](C2=CC=C(C(C)(C)C)C=C2)=[O+:2][B-](F)(F)F)=[O:3])C=C1.CCOCC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10159,"C[N+:1](C)=[CH:2]S|((2, 1), 1)"
train,pmechdb_split_0,0,10137,"C[S+](C)(=O)[CH2:1][CH2:2][O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1189,"C=CC1=C2C(=CC=C1)N(C(=O)C1=CC=CC=C1)CC2C(=O)N(C)C(=O)C(=C([O-])OC)[N:1]=[N:2][NH:3]S(C)(=O)=O.CC[NH+](CC)CC|(1, 2);((2, 3), 3)"
